### PR TITLE
lemmas about abs in ssrint

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

I find myself wanting the following lemmas on several occasions:
- lemma `lez_abs` is on the model of `ler_norm`
~~- `{l,g}{e,t}z0_norm` are like `{l,g}{e,t}z0_abs` but easier to rewrite in a context with a `numDomainType`~~
- lemma `normrzE` to be used with lemmas `{l,g}{e,t}r0_norm`

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
~~- [ ] added corresponding documentation in the headers~~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/algebra/ssrint.v [hunk 1]
```diff
@@ -1598,6 +1604,18 @@ Proof. by rewrite -sgrz -normrEsg. Qed.
...
+Proof. by move/gez0_abs => <-. Qed.
+
+Lemma gtz0_norm (R : numDomainType) (i : int) : 0 < i -> `|i|%:R = i%:~R :> R.
+Proof. by move/gtz0_abs => <-. Qed.
+
+Lemma ltz0_norm (R : numDomainType) (i : int) : i < 0 -> `|i|%:R = - i%:~R :> R.
+Proof. by move/ltz0_abs; rewrite -mulrNz => <-. Qed.
+
+Lemma lez0_norm (R : numDomainType) (i : int) : i <= 0 -> `|i|%:R = - i%:~R :> R.
+Proof. by move/lez0_abs; rewrite -mulrNz => <-. Qed.
```
Comment (pi8027) [inline mathcomp/algebra/ssrint.v:1617]: I think that the following lemma could substitute the use of these lemmas:
```coq
Goal forall (R : numDomainType) (i : int), `|i|%:R = `|i|%:~R :> R.
Proof. by move=> R i; rewrite -abszE. Qed.
```

Comment (affeldt-aist) [reply mathcomp/algebra/ssrint.v]: > I think that the following lemma could substitute the use of the above lemmas:

I have told that we could have them all. @CohenCyril 
`xyz_norm` lemmas have easy-to-search names, whereas the generic ones look like low-level manipulation of notations.

Comment (pi8027) [reply mathcomp/algebra/ssrint.v]: Another issue is that `` `|_| `` in these statements are not `GRing.norm` but `absz`. I think we could copy almost any lemma involving `GRing.norm` that applies to `int` in this way, but I'm not sure if that's what we want.

Comment (affeldt-aist) [reply mathcomp/algebra/ssrint.v]: > Another issue is that `` `|_| `` in these statements are not `GRing.norm` but `absz` and
> thus their current names seem wrong.

Indeed, but the name `gez0_abs` is already taken :-/. To me, the "_norm" prefix looked appropriate
for a lemma intended to be used with a `numDomainType`.

> I think we could copy almost any lemma involving `GRing.norm` that applies to `int` in this way,
> but I'm not sure if that's what we want.

Indeed. Rewriting with `gez0_abs` in a context with `numDomainType` still looks cumbersome to me though.

Comment (pi8027) [reply mathcomp/algebra/ssrint.v]: If you point me out where you need these lemmas, I will try to propose a fix for that.

@CohenCyril What do you think?

Comment (affeldt-aist) [reply mathcomp/algebra/ssrint.v]: These lemmas are used in https://github.com/math-comp/analysis/blob/lebesgue_measure/theories/measure_wip.v.

NB: they are part of code under refactoring.

**Comment by pi8027** [comment]
To make sure these lemmas are not misnamed, let's summon @CohenCyril anyway.

File: mathcomp/algebra/ssrint.v [hunk 2]
```diff
@@ -1598,6 +1601,18 @@ Proof. by rewrite -sgrz -normrEsg. Qed.
...
 
+Section Normz.
+Variable R : numDomainType.
+Implicit Type i : int.
+
+Lemma pmulrnorm (x : R) i : x *+ `|i| = x *~ `|i|.
+Proof. by rewrite -abszE. Qed.
+
+Lemma normrzE i : `|i|%:R = `|i|%:~R :> R.
+Proof. by rewrite -abszE. Qed.
```
Comment (CohenCyril) [inline mathcomp/algebra/ssrint.v:1612]: In both these lemmas, the LHS is about `abs` not `norm`, moreover the name for the operation `*+` is `natmul` and the shape `mulr*n` or `mulrn*` is wildely use for lemmas about this (e.g. `mulrIn` and for `%:R` it is `natr` (as in `natrD` etc), so I'd pick the following names: `mulr_absz` and `natr_absz`.

**Review by CohenCyril — APPROVED** [review]

**Review by pi8027 — APPROVED** [review]
